US08278457B2
3,6-Dioxabicyclo[3.1.0]hexane (1.90 g, 22.1 mmol), propane-2-sulfonamide (prepared according to the method of D. C. Johnson, II and T. S. Widlanski, Tetrahedron Letters 2004, 45, 8483-8487) (3.13 g, 25.4 mmol), potassium carbonate (584 mg, 4.23 mmol) and benzyltriethylammonium chloride (963 mg, 4.23 mmol) were suspended in dioxane (10 mL) and heated at reflux for 120 hours. The reaction was cooled to room temperature, filtered, concentrated in vacuo and purified by silica gel chromatography (Gradient: 40% to 80% ethyl acetate in heptane), to afford trans-N-(4-hydroxytetrahydrofuran-3-yl)propane-2-sulfonamide as a solid. Yield: 3.76 g, 18.0 mmol, 81%. 1H NMR (400 MHz, CDCl3) δ 1.38 (d, J=6.7 Hz, 3H), 1.40 (d, J=6.7 Hz, 3H) 2.91 (d, J=3.6 Hz, 1H), 3.22 (septet, J=6.8 Hz, 1H), 3.67-3.71 (m, 2H), 3.82 (m, 1H), 4.08-4.12 (m, 2H), 4.40 (m, 1H), 4.77 (d, J=8.4 Hz, 1H), 13C NMR (100 MHz, CDCl3) δ 16.44, 16.69, 54.18, 62.06, 71.47, 73.50, 77.64.

reactant | 3,6-Dioxabicyclo[3.1.0]hexane | 22.1 mmol, 1.90 g | C12COCC2O1 | C4H6O2
reactant | propane-2-sulfonamide | CC(C)S(=O)(=O)N | C3H9NO2S
reactant | potassium carbonate | 4.23 mmol, 584 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | benzyltriethylammonium chloride | 4.23 mmol, 963 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | trans-N-(4-hydroxytetrahydrofuran-3-yl)propane-2-sulfonamide | O[C@H]1[C@@H](COC1)NS(=O)(=O)C(C)C | C7H15NO4S
